US06352993B1
Step 2:6-methyl-4-chloro-2-(4-fluorophenylamino)pyrimidine
A reaction mixture of 6-methyl-4-hydroxy-2-(4-fluorophenylamino)pyrimidine (1.74 g, 7.93 mmol) and phosphorus oxychloride was stirred for 1 hour at a room temperature and then dissolved in dichloromethane. Water was added dropwise to the reaction mixture and stirred for 30 minutes. The separated organic layer was washed with 2N NaOH solution, dried over anhydrous magnesium sulfate, and then concentrated under a reduced pressure to give 1.57 g of the titled compound. (Yield 83.5%)

reactant | 6-methyl-4-hydroxy-2-(4-fluorophenylamino)pyrimidine | 7.93 mmol, 1.74 g | CC1=CC(=NC(=N1)NC1=CC=C(C=C1)F)O | C11H10FN3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-methyl-4-chloro-2-(4-fluorophenylamino)pyrimidine | 1.57 g, Yield 83.5% | CC1=CC(=NC(=N1)NC1=CC=C(C=C1)F)Cl | C11H9ClFN3
